US06403561B1
a) Preparation of 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline n-propylamide
2 g of 1-(N-(tert-butoxycarbonyl)-2(S)-amino-butyryl)-L-proline (6.6 mmol) prepared as in Example 2 c) are dissolved in tetrahydrofuran (40 ml). 0.86 ml of isobutyl chloroformate (6.6 mmol) and 0.85 ml of N.-ethylmorpholine (6.6 mmol) are then added to this solution, at −10° C. and under nitrogen. After stirring at −10° C. for 20 minutes, 2.75 ml of n-propylamine (33.0 mmol) are added. The mixture is left stirring at 0° C. for one hour and then at room temperature overnight. The solvent is evaporated off under vacuum and a white semi-solid material is obtained. It is dissolved in ethyl acetate (150 ml) and washed with 5% citric acid (30 ml), saturated sodium bicarbonate solution (30 ml) and brine (20 ml). After drying (Na2SO4) the mixture is filtered and the solvent is evaporated off. An oil is obtained, which is purified by liquid chromatography on a column (eluent: ethyl acetate) and a white solid is obtained.

reactant | 1-(N-(tert-butoxycarbonyl)-2(S)-amino-butyryl)-L-proline | 6.6 mmol, 2 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)O)CCC1)CC | C14H24N2O5
reactant | isobutyl chloroformate | 6.6 mmol, 0.86 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethylmorpholine | 6.6 mmol | C(C)N1CCOCC1 | C6H13NO
reactant | n-propylamine | 33.0 mmol, 2.75 ml | C(CC)N | C3H9N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline n-propylamide | C(CC)NC([C@H]1N(CCC1)C([C@H](CC)NC(=O)OC(C)(C)C)=O)=O | C17H31N3O4
